US04302607
a. 14-Methyl-cyclopentadec-2-en-1-one (dehydromuscone)
To the Grignard reagent prepared from 72 mg (3 mg-atoms) of magnesium and 0.25 ml (4 mMole) of iodomethane in 5 ml of ether was added 50 mg of cuprous iodide, and the mixture was heated at reflux for 5 min. Cyclopentadeca-2,14-dien-1-one (0.44 g; 2 mMole) in 5 ml of ether was then added over a period of 10 min without cooling, and stirring was continued for 30 min at room temperature. The reaction mixture was poured into cold ammonium chloride solution and extracted with ether. The organic layer was washed with water, dried over sodium sulphate, evaporated and distilled to give 0.33 g (69%) of dehydromuscone having b.p. 110°/0.1 Torr;

reactant | magnesium | 72 mg | [Mg] | Mg
reactant | iodomethane | 4 mMole, 0.25 ml | IC | CH3I
reactant | Cyclopentadeca-2,14-dien-1-one | 2 mMole, 0.44 g | C1(C=CCCCCCCCCCCC=C1)=O | C15H24O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 14-Methyl-cyclopentadec-2-en-1-one | CC1CCCCCCCCCCC=CC(C1)=O | C16H28O
